US07884202B2
0.32 g (1.0 mmol) of 3′,5′-di-O-acetyl-2′-deoxyuridine and 0.058 g (0.3 mmol) of ferrocene were weighed and placed in a 50 ml two-neck flask equipped with a magnetic rotor and the atmosphere in the flask was replaced with argon. The following materials were added thereinto: 1.8 ml of dimethyl sulfoxide, 2.0 ml of a 1N dimethyl sulfoxide solution of sulfuric acid, 1.0 ml of a 2.1 mol/l dimethyl sulfoxide solution of trifluoromethyl iodide and 0.2 ml of a 30% hydrogen peroxide aqueous solution. The mixture was stirred at 60 to 70° C. for 20 minutes and then the resulting solution was cooled to room temperature. Formation of 5-trifluoromethyl-3′,5′-di-O-acetyl-2′-deoxyuridine (19F-NMR yield: 75%) was confirmed by 19F-NMR with trifluoroethanol as an internal standard. 5-Trifluoromethyl-3′,5′-di-O-acetyl-2′-deoxyuridine was obtained as a white solid (0.19 g, yield: 50%) by column chromatography.

reactant | 3′,5′-di-O-acetyl-2′-deoxyuridine | 1.0 mmol, 0.32 g | C(C)(=O)O[C@H]1C[C@@H](O[C@@H]1COC(C)=O)N1C(=O)NC(=O)C=C1 | C13H16N2O7
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | trifluoromethyl iodide | FC(F)(F)I | CF3I
reactant | hydrogen peroxide | OO | H2O2
catalyst | ferrocene | 0.3 mmol, 0.058 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | dimethyl sulfoxide | 2.1 mol/l | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1N | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 1.8 ml | CS(=O)C | C2H6OS
product | 5-trifluoromethyl-3′,5′-di-O-acetyl-2′-deoxyuridine | yield: 75% | FC(C=1C(NC(N([C@H]2C[C@H](OC(C)=O)[C@@H](COC(C)=O)O2)C1)=O)=O)(F)F | C14H15F3N2O7
